US07026326B2
5-(3-Cyclopropyl-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one
To a 100 mL RBF, was added 5-(3-bromo-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (0.4 g, 0.82 mmol), 30 mL toluene, and cyclopropyl boronic cid (86 mg, 1.0 mmol). The mixture was degassed by nitrogen bubbled through for 1 h. After added Pd(PPh)4 (30 mg, 0.025 mmol) and NaOtBu (0.24 g, 2.5 mmol), the mixture was warmed up to 100° C. and stirred for 1 h under nitrogen. The mixture was cooled down to rt, and vacuumed down all volatile composites. After purified by flash chromatography, the title compound was obtained in 0.1 g as pale yellow solid. MS (ES+): 444 (M+H)+; (ES−): 4442 (M−H).

reactant | 5-(3-bromo-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.82 mmol, 0.4 g | BrC=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)N1C(CCC1)CNC(C)C)C)=O | C24H28BrN5O
reactant | cyclopropyl boronic cid | 1.0 mmol, 86 mg | C1(CC1)B(O)O | C3H7BO2
reactant | NaOtBu | 2.5 mmol, 0.24 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Cyclopropyl-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | C1(CC1)C=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)N1C(CCC1)CNC(C)C)C)=O | C27H33N5O
